US06004992
6.4 g (28 mmol) of N-(2,6-difluorobenzoyl)alanine are dissolved in 50 ml of dimethyl sulphoxide (DMSO) and admixed with 1.2 g (31 mmol) of sodium hydroxide dissolved in a little water. 5.7 g (30 mmol) of 3,4,4-trifluorobut-3-enyl bromide are subsequently added, and the mixture is stirred at 20° C. overnight. The mixture is then poured into water and the product is extracted with ethyl acetate and subsequently purified by column chromatography over silica gel using the system ethyl acetate. In this manner, 2.5 g (26.5% of theory) of 3,4,4-trifluorobut-3-enyl N-(2,6-difluorobenzoyl)-alaninate are obtained as an oil. log p (pH 2)=2.42.

reactant | N-(2,6-difluorobenzoyl)alanine | 28 mmol, 6.4 g | FC1=C(C(=O)N[C@@H](C)C(=O)O)C(=CC=C1)F | C10H9F2NO3
reactant | sodium hydroxide | 31 mmol, 1.2 g | [OH-].[Na+]
reactant | 3,4,4-trifluorobut-3-enyl bromide | 30 mmol, 5.7 g | FC(CCBr)=C(F)F | C4H4BrF3
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3,4,4-trifluorobut-3-enyl N-(2,6-difluorobenzoyl)-alaninate | 2.5 g, 26.5% | FC1=C(C(=O)N[C@@H](C)C(=O)OCCC(=C(F)F)F)C(=CC=C1)F | C14H12F5NO3
